US04229453
4-Amino-7-(4-chlorophenyl)-5,6-dimethylpyrrolo[2,3-d]pyrimidine
15 g (0.06 mol) of 2-amino-1-(4-chlorophenyl)-3-cyano-4,5-dimethylpyrrole in 100 ml of formamide, 30 ml of dimethylformamide and 15 ml of concentrated formic acid are heated under reflux for 7 hours. The crystals which precipitate on cooling are washed with water and recrystallised from ethanolic potassium hydroxide solution. Melting point: 250° C., yield: 13 g (79% of theory).

reactant | 2-amino-1-(4-chlorophenyl)-3-cyano-4,5-dimethylpyrrole | 0.06 mol, 15 g | NC=1N(C(=C(C1C#N)C)C)C1=CC=C(C=C1)Cl | C13H12ClN3
reactant | formamide | 100 ml | C(=O)N | CH3NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 4-Amino-7-(4-chlorophenyl)-5,6-dimethylpyrrolo[2,3-d]pyrimidine | NC=1C2=C(N=CN1)N(C(=C2C)C)C2=CC=C(C=C2)Cl | C14H13ClN4
